US07790709B2
Preparation of (E)-3-(6-Amino-5-piperidin-1-ylmethyl-pyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide
According to the procedure of Example 1 (a), except substituting (E)-3-(6-amino-5-piperidin-1-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (294 mg, 54%) was prepared as an off-white powder and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 8.12 (s, 1H), 7.78-7.68 (m, 1H), 7.49-7.38 (m, 3H), 7.14-6.97 (m, 3H), 6.63 (s, 2H), 6.41-6.18 (m, 1H), 5.02-4.83 (m, 21), 3.72-3.67 (m, 3H), 3.39-3.34 (m, 3H), 3.09-2.96 (m, 3H), 2.29 (br s, 3H), 1.49-1.40 (m, 6H); MS (ESI) m/e 418 (M+H)+.

reactant | (E)-3-(6-amino-5-piperidin-1-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCCCC1
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-(6-Amino-5-piperidin-1-ylmethyl-pyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | 294 mg, 54% | NC1=C(C=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C)CN1CCCCC1 | C25H31N5O
